US05643908
4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxodecyl)-2-oxazolidinone
Following the procedure described in Referential Example 4, but using 4-(S)-isopropyl-3-(1-oxodecyl)-2-oxazolidinone (9.85 g), prepared in Referential Example 49, and tert-butyl bromoacetate (25.4 ml) as starting materials, the desired compound (9.17 g) having a m.p. of 58°-59° C. was obtained.

reactant | 4-(S)-isopropyl-3-(1-oxodecyl)-2-oxazolidinone | 9.85 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCCCCC)=O | C16H29NO3
reactant | tert-butyl bromoacetate | 25.4 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxodecyl)-2-oxazolidinone | 9.17 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@H](CCCCCCCC)CC(=O)OC(C)(C)C)=O | C22H39NO5
